### ISSUE TITLE
Suggest a plain identifier instead of patternless `obtain`

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#57]
We could add a linter to detect where `obtain` is used with no pattern and suggest a `have` binding instead.

e.g detect:

```lean
example (P : Prop) (hP : P) : P := by
  obtain : P := hP
  assumption
```

suggest:

```lean
example (P : Prop) (hP : P) : P := by
  have h : P := hP
  exact h
```

Originally suggested by @Ruben-VandeVelde.
